US06500822B2
To a solution of 7-Methoxy-3,4-dihydro-1-H-naphthalen-2-one (5.0 g, 28.4 mmol) and propylamine (2.8 mL, 34 mmol, 1.2 eq) in 1,2-dichloroethane (150 mL) under inert atmosphere was added sodium triacetoxyborohydride (15 g, 71 mmol, 2.5 eq) in a single portion. The reaction was allowed to stir at room temperature for 20 h then concentrated in-vacuo. The residue was partitioned between 10% aq. KOH (150 mL) and ethyl acetate (75 mL). The organic layer was washed with brine, dried and concentrated. The resulting material was dissolved in diethyl ether (100 mL) and treated with 1 M HCl in ether (28.4 ML). The solid was collected and dried under vacuum to afford 6.23 g of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl-propyl-amine as hydrochloride salt.

reactant | 7-Methoxy-3,4-dihydro-1-H-naphthalen-2-one | 28.4 mmol, 5.0 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | propylamine | 34 mmol, 2.8 mL, 1.2 eq | C(CC)N | C3H9N
reactant | sodium triacetoxyborohydride | 71 mmol, 15 g, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
product | 7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl-propyl-amine | COC1=CC=C2CCC(CC2=C1)NCCC | C14H21NO
